* E:\$GIT\TC1-RLC-Meter\Simulaciones\signal output RailToRail.asc
V1 N005 0 SINE(1.65 1.5 1000)
V2 VCC 0 9
R1 Vo1 N002 100k
XU2 0 N002 VCC -VCC Vo1 AD820
R4 -VCC N003 330k
R5 N003 0 100k
R6 N002 N003 50.1k
R7 N002 N005 100K
XU1 N004 N001 VCC 0 Vo2 AD820
R8 Vo2 N001 300
V3 0 -VCC 9
V4 3.3V 0 3.3
R2 N001 0 33
R3 N004 Vo1 560
C1 N004 0 5µ
.tran 0 1.008 1.0001 0.001
.lib ADI1.lib
.backanno
.end
